US04067903
N-ethyl-N-phenylethyl-aniline
182 parts of N-ethylaniline, 244 parts of phenylethyl alcohol and 20 parts of triphenyl phosphite are mixed whilst stirring and next heated to an internal temperature of 206° C, at which the elimination of water commences. The mixture is then heated to an internal temperature of 243° C in the course of 20 hours. During this time, 25 parts of water have distilled off and the condensation has ended. The excess ethylaniline and the unconverted alcohol are then distilled off. 274 parts of N-ethyl-N-phenylethyl-aniline, corresponding to a yield of 81% of theory, distil at a boiling point of 160° C/5 mm Hg.

reactant | N-ethylaniline | C(C)NC1=CC=CC=C1 | C8H11N
reactant | phenylethyl alcohol | C1(=CC=CC=C1)CCO | C8H10O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | N-ethyl-N-phenylethyl-aniline | yield of 81% | C(C)N(C1=CC=CC=C1)CCC1=CC=CC=C1 | C16H19N
